US09351969B2
Step-2: Synthesis of 2-hydroxy-7,7-dimethyl-6,7-dihydro-5H-cyclopenta[b]pyridine-3-carbonitrile
To a solution of 3,3-dimethyl-2-oxocyclopentanecarbaldehyde sodium salt (5 g, 30.9 mmol) in water (10 mL) was added cyanoacetamide (2.5 g, 30.9 mmol), piperidine (2.6 g, 30.9 mmol in 10 mL water) and acetic acid (1 mL) in that order. The reaction mixture was stirred at 100° C. for about 26 h and then cooled to a temperature of about 20-35° C. The reaction mass was adjusted to pH value of about 6 and was then filtered off to obtain a crude product. The crude product was purified by column chromatography (60-120 mesh silica gel) with 10% ethyl acetate in petroleum ether as the eluent to obtain the desired product as a brown liquid (0.8 g).

reactant | 3,3-dimethyl-2-oxocyclopentanecarbaldehyde sodium salt | 30.9 mmol, 5 g | [Na].CC1(C(C(CC1)C=O)=O)C
reactant | cyanoacetamide | 30.9 mmol, 2.5 g | C(#N)CC(=O)N | C3H4N2O
reactant | piperidine | 30.9 mmol, 10 mL, 2.6 g | N1CCCCC1 | C5H11N
reactant | acetic acid | 1 mL | C(C)(=O)O | C2H4O2
solvent | water | 10 mL | O | H2O
product | 2-hydroxy-7,7-dimethyl-6,7-dihydro-5H-cyclopenta[b]pyridine-3-carbonitrile | 0.8 g | OC1=C(C=C2C(=N1)C(CC2)(C)C)C#N | C11H12N2O
